US09079911B2
5-(2-Fluoro-6-[1,2,3]triazol-2-yl-benzoyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester (1.3 g, 3.21 mmol) was taken up in DCM (6.0 mL) and TFA (3.0 mL) was added. The mixture was allowed to stir at rt for 1 hr. Solvent was removed and then taken back up in DCM and basified with 1N aq. NaOH. The layers were separated. The aqueous was extracted 2 more time with DCM (and a small amount of MeOH). The organics were combined, dried (Na2SO4), filtered, and concentrated to provide the desired free base product, (2-fluoro-6-[1,2,3]triazol-2-yl-phenyl)-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-methanone, as a viscous/foamy residue that was found to be very hydroscopic (950.6 mg, 93.3%). MS (ESI): mass calculated for C15H16FN5O, 301.32, m/z found 302.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.90-7.73 (m, 3H), 7.54-7.42 (m, 1H), 7.19-7.10 (m, 1H), 3.85-2.65 (m, 10H).

reactant | 5-(2-Fluoro-6-[1,2,3]triazol-2-yl-benzoyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | 3.21 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)C(C1=C(C=CC=C1N1N=CC=N1)F)=O | C20H24FN5O3
reactant | TFA | 3.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 6.0 mL | C(Cl)Cl | CH2Cl2
product | (2-fluoro-6-[1,2,3]triazol-2-yl-phenyl)-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-methanone | FC1=C(C(=CC=C1)N1N=CC=N1)C(=O)N1CC2CNCC2C1 | C15H16FN5O
